US04377687
To a solution of 0.1 mole N-(2-chloroethyl)-N-nitrosocarbamoylazide in 75 ml dichloromethane is added in drops at -5 degC. (°C.) under stirring within 2 hours a solution of 0.2 mole N-aminopiperidine in 20 ml of a mixture of 4 parts by volume dichloromethane and 1 part by volume n-pentane. After the addition, the stirring is continued for one hour and a whitish-yellow precipitate is obtained. Subsequently it is shaken out with the same volume of 0.1 N H2SO4. The organic phase is dried over Na2SO4 and concentrated on the rotary evaporator. From ethyl formate/n-pentane we obtain on standing in the deep freezer yellow crystals which are homogeneous in thin-layer chromatography, after recrystallization from the same solvent mixture (silicagel foils, solvent system n-pentane/diethylether/dichloromethane 5:2:2)

reactant | N-(2-chloroethyl)-N-nitrosocarbamoylazide | 0.1 mole | ClCCN(C(=O)N=[N+]=[N-])N=O | C3H4ClN5O2
reactant | N-aminopiperidine | 0.2 mole | NN1CCCCC1 | C5H12N2
reactant | n-pentane | CCCCC | C5H12
reactant | H2SO4 | 0.1 N | OS(=O)(=O)O | H2O4S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | ethyl formate n-pentane | Yield: 21% | C(=O)OCC.CCCCC | InChI=1S/C5H12.C3H6O2/c1-3-5-4-2;1-2-5-3-4/h3-5H2,1-2H3;3H,2H2,1H3
